US05576334
In a similar manner to Example 20, starting material step (a), N-benzyloxycarbonylpiperidine-4-methanol (2 g, preparation described in Turconi, M. et al (1989), European Patent Application No. 309422-A2), dirhodium tetraacetate (40 mg), dichloromethane (15 ml total) and ethyl diazoacetate (1.2 ml) were reacted to give ethyl N-(benzyloxycarbonyl)piperidin-4-ylmethoxyacetate (1.47 g) as a colourless oil: NMR Spectrum (DMSO-d6) 1.10 (2H, m), 1.20 (3H, t), 1.70 (3H, m), 2.80 (2H, m), 3.31 (2H, d), 4.00 (2H, m), 4.06 (2H, s), 4.12 (2H, q), 5.06 (2H, s), 7.35 (5H, m); Mass Spectrum m/Z 336 (M+H)+.

reactant | N-benzyloxycarbonylpiperidine-4-methanol | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CO | C14H19NO3
reactant | ethyl diazoacetate | 1.2 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | dirhodium tetraacetate | 40 mg | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Rh+3].[Rh+3]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | ethyl N-(benzyloxycarbonyl)piperidin-4-ylmethoxyacetate | 1.47 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COCC(=O)OCC | C18H25NO5
